US05854227
9,10-Difluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid, prepared according to the procedure of example 1 of U.S. Pat. No. 4,382,892, is reacted with 3-hydroxy-3,3-bis(dimethoxyphosphono)-1-propylamine and a quantity of base sufficient to neutralize the acid groups of both reactants and the acid formed in the reaction, thus yielding 9-fluoro-3-methyl-10-[3-hydroxy-3,3-bis(dimethoxyphosphono)-1-propylamino]-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de](1,4]benzoxazine-6-carboxylic acid.

reactant | 9,10-Difluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid | FC=1C(=C2C=3N(C(CO2)C)C=C(C(C3C1)=O)C(=O)O)F | C13H9F2NO4
reactant | 3-hydroxy-3,3-bis(dimethoxyphosphono)-1-propylamine | OC(CCN)(P(=O)(OOC)OOC)P(=O)(OOC)OOC | C7H19NO11P2
product | 9-fluoro-3-methyl-10-[3-hydroxy-3,3-bis(dimethoxyphosphono)-1-propylamino]-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de](1,4]benzoxazine-6-carboxylic acid | FC=1C(=C2C=3N(C(CO2)C)C=C(C(C3C1)=O)C(=O)O)NCCC(P(=O)(OOC)OOC)(P(=O)(OOC)OOC)O | C20H27FN2O15P2
